US07253171B2
N-Cyclohexyl-2-(cyclohexylmethylamino)-N-methylbenzamide
The title compound (0.3 g, 67%) was obtained as a orange solid from N-cyclohexyl-N-methylamine and 1-Cyclohexylmethyl-1H-benzo[d][1,3]oxazine-2,4-dione following the same procedure as described in Preparation 7.

reactant | N-cyclohexyl-N-methylamine | C1(CCCCC1)NC | C7H15N
reactant | 1-Cyclohexylmethyl-1H-benzo[d][1,3]oxazine-2,4-dione | C1(CCCCC1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C15H17NO3
product | N-Cyclohexyl-2-(cyclohexylmethylamino)-N-methylbenzamide | 0.3 g, 67% | C1(CCCCC1)N(C(C1=C(C=CC=C1)NCC1CCCCC1)=O)C | C21H32N2O
